US07981882B2
1-(Phenylthio)pentane-2,4-dione
1,1-Dimethylethyl 2-acetyl-3-oxo-4-(phenylthio)butanoate Add tert-butyl acetoacetate (1.30 mL, 8.0 mmol) dropwise to a solution of sodium tert-butoxide (770 mg, 8.0 mmol) in diethyl ether (15 mL) at 0° C. under nitrogen. Stir the white precipitate at RT for 20 h and cool to 0° C. Add (phenylthio)acetyl chloride (1.2 mL, 8.0 mmol) dropwise and observe as the suspension turns yellow, then becomes a clear solution, and finally forms a white precipitate when all the reagent is added. Stir the reaction for 24 h at RT. Quench with 2 N HCl (15 mL), wash the aqueous layer with EtOAc (15 mL). Dry (MgSO4), concentrate and purify (silica gel chromatography, eluting with 100:0 to 90:10 2-methylpentane:EtOAc) to give the title compound as light yellow solid (1.11 g, 48%)

reactant | 1,1-Dimethylethyl 2-acetyl-3-oxo-4-(phenylthio)butanoate | C(C)(=O)C(C(=O)OC(C)(C)C)C(CSC1=CC=CC=C1)=O | C16H20O4S
reactant | tert-butyl acetoacetate | 8.0 mmol, 1.30 mL | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | sodium tert-butoxide | 8.0 mmol, 770 mg | CC(C)([O-])C.[Na+]
reactant | (phenylthio)acetyl chloride | 8.0 mmol, 1.2 mL | C1(=CC=CC=C1)SCC(=O)Cl | C8H7ClOS
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
product | 1-(Phenylthio)pentane-2,4-dione | 1.11 g, 48% | C1(=CC=CC=C1)SCC(CC(C)=O)=O | C11H12O2S
